US07312249B2
f. Preparation of Dimethyl 4-{3-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]propyl}phthalate
In a manner similar to Example 1g, by reacting 900 mg (2.6 mmol) of dimethyl 4-[3-(3-methyl-4-hydroxyphenyl)propyl]phthalate with 400 mg (2.9 mmol) of potassium carbonate and 390 μl (2.9 mmol) of 1-bromopinacolone. A colorless oil is obtained (m=910 mg; y=79%).

reactant | dimethyl 4-[3-(3-methyl-4-hydroxyphenyl)propyl]phthalate | 2.6 mmol, 900 mg | CC=1C=C(C=CC1O)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C20H22O5
reactant | potassium carbonate | 2.9 mmol, 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopinacolone | 2.9 mmol, 390 μl | BrCC(C(C)(C)C)=O | C6H11BrO
product | Dimethyl 4-{3-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]propyl}phthalate | CC(C(COC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)C)=O)(C)C | C26H32O6
